US04563365
5-Methyl-hept-2-en-4-one to be used according to the invention can be obtained for example by reacting 2-butyl-magnesium bromide (prepared, for example, from 2-bromo-butane and magnesium filings) with crotonaldehyde in ether solution. 5-Methyl-hept-2-en-4-ol is obtained as an intermediate and is oxidized with a mixture of sodium dichromate and sulphuric acid to give 5-methyl-hept-2-en-4-one. The 5-methyl-hept-2-en-4-one is obtained as a mixture of the cis- and trans-isomers, with the latter predominating. The isomer mixture can be separated into the cis-isomer and trans-isomer by simple methods of separation, such as, for example, fractional distillation by a packed column or slotted tube column or preparative gas chromatography. However, it has been found that the use of the individual isomers offers no advantages over the use of the mixture.

reactant | 5-Methyl-hept-2-en-4-one | CC(C(C=CC)=O)CC | C8H14O
reactant | 2-butyl-magnesium bromide | CC(CC)[Mg]Br
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
solvent | ether | CCOCC | C4H10O
product | 5-Methyl-hept-2-en-4-ol | CC(C(C=CC)O)CC | C8H16O
